US06359138B1
(1RS,2RS)-1-(6-Benzyloxy-1-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol
(RS)-6-Benzyloxy-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-ylmethyl]-3,4-dihydro-2H-naphthalen-1-one (1.30 g, 2.77 mmol) in THF (15 ml) was added dropwise to a suspension of LiAlH4 (0.6 g, 15.5 mmol) in THF (20 ml) over 15 min (5-10° C.) and then stirred at RT for 2.5 hr. Distilled H2O (1 ml) and 4N NaOH (2 ml) followed by further H2O (2 ml), was added to quench the reaction and stirred vigorously 15 min., the mixture was then dried with Na2SO4, filtered and evaporated. The resulting crude liquid was chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2—MeOH—NH4OH (100:5:0.25) to afford the title compound as a white foam (0.75 g, 1.6 mmol, 57%), MS m/e=472.4 (M+H+).

reactant | (RS)-6-Benzyloxy-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-ylmethyl]-3,4-dihydro-2H-naphthalen-1-one | 2.77 mmol, 1.30 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)=O)CN1CCC(CC1)(CC1=CC=C(C=C1)C)O | C31H35NO3
reactant | LiAlH4 | 15.5 mmol, 0.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1 ml | O | H2O
reactant | NaOH | 4N, 2 ml | [OH-].[Na+]
reactant | H2O | 2 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (1RS,2RS)-1-(6-Benzyloxy-1-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 1.6 mmol, 0.75 g, 57% | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)O)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C31H37NO3
